US04090020
Preparation of 3,4-dihydro-2-methyl-3-oxo-4-(2-thiazolyl-carbamoyl)-2 H-thieno[2,3-e]1,2-thiazine 1,1-dioxide
0.15 G. of 3,4-dihydro-4-methoxycarbonyl-2-methyl-3-oxo-2H-thieno[ 2,3-e] 1,2-thiazine 1,1-dioxide and 0.071 g. of 2-aminothiazole are dissolved in 30 ml. of absolute xylene and the solution is heated for half an hour under the reflux. After cooling, the crystals are removed by filtration, recrystallized from glacial acetic acid, and 3,4-dihydro-2-methyl-3-oxo-4-(2-thiazolyl-carbamoyl)2H-thieno[ 2,3-e] 1,2-thiazine 1,1-dioxide, melting point 236° C. to 238° C. (decomposition), is obtained.

reactant | 3,4-dihydro-4-methoxycarbonyl-2-methyl-3-oxo-2H-thieno[ 2,3-e] 1,2-thiazine 1,1-dioxide | COC(=O)C1C(N(S(C2=C1SC=C2)(=O)=O)C)=O | C9H9NO5S2
reactant | 2-aminothiazole | NC=1SC=CN1 | C3H4N2S
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 3,4-dihydro-2-methyl-3-oxo-4-(2-thiazolyl-carbamoyl)-2 H-thieno[2,3-e]1,2-thiazine 1,1-dioxide | CN1S(C2=C(C(C1=O)C(NC=1SC=CN1)=O)SC=C2)(=O)=O | C11H9N3O4S3
